US06531484B2
Step A: Dibenzyl cyclohexane-1,1-dicarboxylate
A solution of dibenzyl malonate (40 g, 161 mmol), 1,5-dibromopentane (22 mL, 161 mmol) and potassium carbonate (56 g, 402 mmol) in 300 mL of DMSO was stirred for 48 h in an oil bath at 50° C. The mixture was diluted with water and extracted with ethyl acetate (2×). The combined organic portions were dried over magnesium sulfate and concentrated. Flash chromatography (400 g silica, 15/1 hexane/EtOAc) gave the desired product. 1H NMR (500 MHz, CDCl3) δ1.4-1.5 (m, 1H), 1.52-1.6 (m, 5H), 2.03-2.1 (m, 4H), 5.13 (s, 4H), 7.22-7.38 (m, 10H).

reactant | dibenzyl malonate | 161 mmol, 40 g | C(CC(=O)OCC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C17H16O4
reactant | 1,5-dibromopentane | 161 mmol, 22 mL | BrCCCCCBr | C5H10Br2
reactant | potassium carbonate | 402 mmol, 56 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 300 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Dibenzyl cyclohexane-1,1-dicarboxylate | C1(CCCCC1)(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C22H24O4
